US09029504B2
Condensation of Fmoc-Ile-OH
0.88 (3H, t, J=6.9, —OC17H34-Me) 1.20-2.20 (75H, br, m, Alkyl-H, Ile Me-CH2—CH-Me, Pro N—CH2—CH2—CH2—CH, Ala Me) 2.30 (1H, br, s, Ile Me-CH2—CH-Me) 3.38 (4H, t, J=6.6, —CH2—O—CH2—C21H43) 3.58 (1H, br, Pro CO—N—CH2—) 3.70 (1H, br, Pro CO—N—CH2—) 3.88 (2H, br, t, J=6.6, fl-O—CH2—) 4.19 (1H, t, J=6.6, fluorene (Fmoc) C9-H) 4.25-4.45 (3H, m, fluorene (Fmoc)-CH2—O, Ile or Pro or Ala α-H) 4.50 (1H, br, m, Ile or Pro or Ala α-H) 4.66 (1H, br, m, Ile or Pro or Ala α-H) 5.40 (1H, d, J=9.3, Fmoc-NH—) 6.75-7.45 (12H, m, fluorene-H or Ph-H) 7.57 (4H, br, fluorene-H or Ph-H) 7.75 (2H, d, J=7.8, fluorene-H or Ph-H)

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Ph-H | C1=CC=CC=C1 | C6H6
product | Fmoc-Ile-OH | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
